US09127032B2
Step 1: Synthesis of 2,3-Bis(3,5-dimethylphenyl)pyrazine (abbreviation: Hdmdppr)
First, 5.00 g of 2,3-dichloropyrazine, 10.23 g of 3,5-dimethylphenylboronic acid, 7.19 g of sodium carbonate, 0.29 g of bis(triphenylphosphine)palladium(II) dichloride (Pd(PPh3)2Cl2), 20 mL of water, and 20 mL of acetonitrile were put into a recovery flask equipped with a reflux pipe, and the air in the flask was replaced with argon. This reaction container was subjected to irradiation with microwaves (2.45 GHz, 100 W) for 60 minutes to be heated. Here, into the flask were further put 2.55 g of 3,5-dimethylphenylboronic acid, 1.80 g of sodium carbonate, 0.070 g of Pd(PPh3)2Cl2, 5 mL of water, and 5 mL of acetonitrile, and irradiation with microwaves (2.45 GHz, 100 W) was performed again for 60 minutes so that heating was performed. Then, water was added to this solution and the organic layer was extracted with dichloromethane. The obtained organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, water, and saturated brine, and was dried with magnesium sulfate. After the drying, the solution was filtered. The solvent of this solution was distilled off, and the obtained residue was purified by flash column chromatography using hexane and ethyl acetate as a developing solvent in a ratio of 5:1. The solvent was distilled off, and the obtained solid was purified by flash column chromatography using dichloromethane and ethyl acetate as a developing solvent in a ratio of 10:1, so that Hdmdppr (abbreviation), which was the pyrazine derivative to be produced, was obtained as a white powder in a yield of 44%. Note that the irradiation with microwaves was performed using a microwave synthesis system (Discover, manufactured by CEM Corporation). A synthesis scheme of Step 1 is shown in (e-1).

reactant | 2,3-dichloropyrazine | 5.00 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 3,5-dimethylphenylboronic acid | 10.23 g | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 7.19 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3,5-dimethylphenylboronic acid | 2.55 g | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 1.80 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.29 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Pd(PPh3)2Cl2 | 0.070 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | 2,3-Bis(3,5-dimethylphenyl)pyrazine | yield of 44% | CC=1C=C(C=C(C1)C)C1=NC=CN=C1C1=CC(=CC(=C1)C)C | C20H20N2
